US07053117B2
1-Methyl-indol-7-ol: A mixture of 7-benzyloxyindole (300 mg, 1.34 mmol), dimethyl oxalate (317 mg, 2.68 mmol) and potassium tert-butoxide (302 mg, 2.68 mmol) in 5 mL DMF was stirred at 110° C. overnight. The solution was poured into NaHCO3 saturated solution (20 mL) and extracted with EtOAc. The organic layer was separated, washed with brine and dried over Na2SO4. The solvent was removed in vacuo to yield 200 mg of 7-benzyloxy-1-methylindole, which was hydrogenated by 5% Pd/C in 20 mL methanol under H2 (50 psi) to yield 90 mg (45.5%) of the title compound. 1H NMR (CDCl3): 7.19–7.16 (m, 1H), 6.94 (d, J=3 Hz, 1H), 6.86 (t, J=7.5 Hz, 1H), 6.48–6.46 (m, 1H), 6.40 (d, J=3 Hz, 1H), 5.05 (s, 1H), 4.07 (s, 3H).

reactant | 1-Methyl-indol-7-ol | CN1C=CC2=CC=CC(=C12)O | C9H9NO
reactant | 7-benzyloxyindole | 1.34 mmol, 300 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | dimethyl oxalate | 2.68 mmol, 317 mg | C(C(=O)OC)(=O)OC | C4H6O4
reactant | potassium tert-butoxide | 2.68 mmol, 302 mg | CC(C)([O-])C.[K+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 7-benzyloxy-1-methylindole | 200 mg | C(C1=CC=CC=C1)OC=1C=CC=C2C=CN(C12)C | C16H15NO
